US08349880B2
Step G (1): A mixture of 3-methyl-1H-1,2,4-triazole (6.83 g, 82 mmol), 2-chloro-5-nitrobenzonitrile (15 g, 82 mmol), and potassium carbonate (34.1 g, 246 mmol) in anhydrous acetonitrile (200 mL) was heated at 70° C. for 16 h. The dark brown reaction mixture was allowed to cool to rt and was poured into water (500 mL). The aqueous mixture was extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified using silica gel chromatography (40-100% ethyl acetate/hexane, linear gradient) to afford 2-(3-methyl-1H-1,2,4-triazol-1-yl)-5-nitrobenzonitrile (10.9 g, 58% yield). LC-MS (M+H)+=230.1. 1H NMR (500 MHz, chloroform-D) δ ppm 2.53 (s, 3 H) 8.10 (d, J=9.16 Hz, 1 H) 8.56 (dd, J=9.16, 2.44 Hz, 1 H) 8.68 (d, J=2.44 Hz, 1 H) 8.93 (s, 1 H).

reactant | 3-methyl-1H-1,2,4-triazole | 82 mmol, 6.83 g | CC1=NNC=N1 | C3H5N3
reactant | 2-chloro-5-nitrobenzonitrile | 82 mmol, 15 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | potassium carbonate | 246 mmol, 34.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-(3-methyl-1H-1,2,4-triazol-1-yl)-5-nitrobenzonitrile | 10.9 g, 58% yield | CC1=NN(C=N1)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C10H7N5O2
